US08314147B2
(4-{[(6-Chloro-3-{[(3-chlorophenyl)methyl]oxy}-2-fluorophenyl)carbonyl]amino}phenyl)acetic Acid
Lithium hydroxide monohydate (12 mg, 0.281 mmol) was added to a solution of ethyl (4-{[(6-chloro-3-{[(3-chlorophenyl)methyl]oxy}-2-fluorophenyl)carbonyl]amino}phenyl)acetate (91 mg, 0.192 mmol in dioxane (2 ml) and water (1 ml) and the reaction was stirred at room temperature overnight. The solvent was evaporated, the residue dissolved in water (5 ml) and acidified (2M HCl, pH˜1). The aqueous layer was extracted with ethyl acetate, the organics dried (Na2SO4) and the solvent evaporated to afford a colourless solid which was collected by filtration. This was purified by mass directed auto-prep (MDAP) to afford the title compound as a colourless solid (28 mg, 32%).

reactant | Lithium hydroxide | [OH-].[Li+]
reactant | ethyl (4-{[(6-chloro-3-{[(3-chlorophenyl)methyl]oxy}-2-fluorophenyl)carbonyl]amino}phenyl)acetate | ClC1=CC=C(C(=C1C(=O)NC1=CC=C(C=C1)CC(=O)OCC)F)OCC1=CC(=CC=C1)Cl | C24H20Cl2FNO4
reactant | water | 1 ml | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (4-{[(6-Chloro-3-{[(3-chlorophenyl)methyl]oxy}-2-fluorophenyl)carbonyl]amino}phenyl)acetic Acid | 28 mg, 32% | ClC1=CC=C(C(=C1C(=O)NC1=CC=C(C=C1)CC(=O)O)F)OCC1=CC(=CC=C1)Cl | C22H16Cl2FNO4
